US05631286
16a. 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethyl)cyclohexan-1-one dimethyl ketal
A solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(hydroxymethyl)cyclohexan-1-one dimethyl ketal (0.37 g, 1.02 mmol) in methylene chloride (5 mL) was added dropwise to a solution of diethylaminosulfur trifluoride (0.14 mL, 1.02 mmol) at -78° C. under an argon atmosphere. The mixture was allowed to warm to room temperature and after 0.75 h, 5% aqueous sodium carbonate was added. The mixture was extracted with chloroform, the organic extract was dried (magnesium sulfate) and the solvent was removed in vacuo to provide a yellow oil (0.3 g, 80%).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(hydroxymethyl)cyclohexan-1-one dimethyl ketal | 1.02 mmol, 0.37 g | COC1(CCC(CC1)(CO)C1=CC(=C(C=C1)OC)OC1CCCC1)OC | C21H32O5
reactant | diethylaminosulfur trifluoride | 1.02 mmol, 0.14 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethyl)cyclohexan-1-one dimethyl ketal | 0.3 g, 80% | COC1(CCC(CC1)(CF)C1=CC(=C(C=C1)OC)OC1CCCC1)OC | C21H31FO4
